US03971819
4-Anilino-3-butylamino-5-sulphamyl-benzoic acid
A mixture of 3-amino-4-anilino-5-sulphamyl-benzoic acid (4 g), n-butanol (50 ml), and conc. H2SO4 (0.4 ml) was boiled under reflux with water separator for 5 days. The resulting solution of butyl 4-anilino-3-butylamino-5-sulphamyl-benzoate was saponified by addition of 2N sodium hydroxide and boiling under reflux for 45 minutes. After neutralization with 4N hydrochloric acid, the reaction mixture was evaporated in vacuo. The residue was dissolved in hot water (50 ml), and the 4-anilino-3-butylamino-5-sulphamyl-benzoic acid was precipitated by addition of 4N hydrochloric acid to pH 3. The crude acid was dissolved in diethyl ether (50 ml), and undissolved impurities were filtered off. The etherial solution was evaporated to dryness, and the residue was recrystallized from acetone-water and aqueous ethanol, after which the compound was obtained with a melting point of 230-231°C.

reactant | 3-amino-4-anilino-5-sulphamyl-benzoic acid | 4 g | NC=1C=C(C(=O)O)C=C(C1NC1=CC=CC=C1)S(N)(=O)=O | C13H13N3O4S
reactant | H2SO4 | 0.4 ml | OS(=O)(=O)O | H2O4S
reactant | butyl 4-anilino-3-butylamino-5-sulphamyl-benzoate | N(C1=CC=CC=C1)C1=C(C=C(C(=O)OCCCC)C=C1S(N)(=O)=O)NCCCC | C21H29N3O4S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | water | O | H2O
solvent | n-butanol | 50 ml | C(CCC)O | C4H10O
product | 4-Anilino-3-butylamino-5-sulphamyl-benzoic acid | N(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)NCCCC | C17H21N3O4S
